US09376441B2
(R)-4-((R)-1-(5-bromo-1,2-dimethyl-1H-benzo[d]imidazol-7-yloxy)ethyl)-1-((R)-1-phenylethyl)pyrrolidin-2-one in TFA (3 mL) was heated in a microwave reactor for 3 h at 140° C. The reaction mixture was then concentrated to give (R)-4-((R)-1-(5-bromo-1,2-dimethyl-1H-benzo[d]imidazol-7-yloxy)ethyl)pyrrolidin-2-one which was used for next step without further purification. LC/MS found for C15H18BrN3O2 as (M+H)+ 353.1.

reactant | (R)-4-((R)-1-(5-bromo-1,2-dimethyl-1H-benzo[d]imidazol-7-yloxy)ethyl)-1-((R)-1-phenylethyl)pyrrolidin-2-one | BrC1=CC2=C(N(C(=N2)C)C)C(=C1)O[C@H](C)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C23H26BrN3O2
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-4-((R)-1-(5-bromo-1,2-dimethyl-1H-benzo[d]imidazol-7-yloxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(N(C(=N2)C)C)C(=C1)O[C@H](C)[C@@H]1CC(NC1)=O | C15H18BrN3O2
